US04698339
7-(1-Hydroxy-4-thiacyclohexyl)-7-phenylthio-8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane
Using 620 mg of 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane, 960 mg of diphenyl disulfide and 511 mg of 4-thiacyclohexanone and following the procedure of Reference Example 1, 1.192 g of the title compound is obtained as colorless crystals.

reactant | 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane | 620 mg | O=C1CC2CCOC(N12)(C)C | C8H13NO2
reactant | diphenyl disulfide | 960 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | 4-thiacyclohexanone | 511 mg | C1(CCSCC1)=O | C5H8OS
product | 7-(1-Hydroxy-4-thiacyclohexyl)-7-phenylthio-8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane | 1.192 g | OC1(CCSCC1)C1(C2CCOC(N2C1=O)(C)C)SC1=CC=CC=C1 | C19H25NO3S2
